US09163011B2
k) 5-Cyano-3-methyl-pyridine-2-carboxylic acid [6-((R)-2-amino-5.5-difluoro-4-methyl-5.6-dihydro-4H-[1,3]oxazin-4-yl)-5-fluoro-pyridin-2-yl]-amide
A solution of ((R)-4-{6-[(5-cyano-3-methyl-pyridine-2-carbonyl)-amino]-3-fluoro-pyridin-2-yl}-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl)-carbamic acid tert-butyl ester (26 mg, 0.052 mmol) and TFA (200 μl, 2.6 mmol) in dichloromethane (1.3 ml) was stirred at it for 5 hours. The reaction mixture was evaporated and the residue diluted with aq. ammonia and ethyl acetate, washed with water and brine, dried over sodium sulfate, filtered and evaporated. 24 mg yellowish solid. Trituration with cyclohexane afforded the title compound as a slightly yellow solid. 17 mg (80% yield).

reactant | ((R)-4-{6-[(5-cyano-3-methyl-pyridine-2-carbonyl)-amino]-3-fluoro-pyridin-2-yl}-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl)-carbamic acid tert-butyl ester | 0.052 mmol, 26 mg | C(C)(C)(C)OC(NC=1OCC([C@@](N1)(C)C1=NC(=CC=C1F)NC(=O)C1=NC=C(C=C1C)C#N)(F)F)=O | C23H23F3N6O4
reactant | TFA | 2.6 mmol, 200 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1.3 ml | ClCCl | CH2Cl2
product | 5-Cyano-3-methyl-pyridine-2-carboxylic acid [6-((R)-2-amino-5.5-difluoro-4-methyl-5.6-dihydro-4H-[1,3]oxazin-4-yl)-5-fluoro-pyridin-2-yl]-amide | 80% yield | NC=1OCC([C@@](N1)(C)C1=C(C=CC(=N1)NC(=O)C1=NC=C(C=C1C)C#N)F)(F)F | C18H15F3N6O2
